US09227918B2
To a solution of 1.13 g (3.32 mmol) of tert-butyl 4-(benzyloxy)phenethyl(methyl)carbamate in 15 mL of methanol was added 35 mg of 10% palladium on carbon. The reaction was stirred under a hydrogen balloon atmosphere for 6 h, filtered through celite and evaporated to give tert-butyl 4-hydroxyphenethyl(methyl)carbamate as a colorless oil which was subsequently used without purification.

reactant | tert-butyl 4-(benzyloxy)phenethyl(methyl)carbamate | 3.32 mmol, 1.13 g | C(C1=CC=CC=C1)OC1=CC=C(CCN(C(OC(C)(C)C)=O)C)C=C1 | C21H27NO3
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 35 mg | [Pd] | Pd
product | tert-butyl 4-hydroxyphenethyl(methyl)carbamate | OC1=CC=C(CCN(C(OC(C)(C)C)=O)C)C=C1 | C14H21NO3
